US08426422B2
methyl 4-fluoro-2-(phenylthio)benzoate
5-Fluoro-2-(methoxycarbonyl)phenylboronic acid (1.00 g), 2-(phenylthio)isoindoline-1,3-dione (0.86 g), and (2-hydroxy-3,5-diisopropylbenzoyloxy)copper (0.29 g) were stirred in dioxane (15 mL) at 50° C. for 24 hours. The reaction mixture was chromatographed on silica gel with 5% ethyl acetate/hexanes.

reactant | 5-Fluoro-2-(methoxycarbonyl)phenylboronic acid | 1.00 g | FC=1C=CC(=C(C1)B(O)O)C(=O)OC | C8H8BFO4
reactant | 2-(phenylthio)isoindoline-1,3-dione | 0.86 g | C1(=CC=CC=C1)SN1C(C2=CC=CC=C2C1=O)=O | C14H9NO2S
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | (2-hydroxy-3,5-diisopropylbenzoyloxy)copper | 0.29 g | OC1=C(C(=O)O[Cu])C=C(C=C1C(C)C)C(C)C
product | methyl 4-fluoro-2-(phenylthio)benzoate | FC1=CC(=C(C(=O)OC)C=C1)SC1=CC=CC=C1 | C14H11FO2S
